US08445480B2
Step B. Methyl {[4-(5-cyano-7-isopropyl-1,3-benzoxazol-2-yl)benzoyl]amino}(piperidin-4-yl)acetate
To a 40-ml scintillation vial was added tert-butyl-4-(1-{[4-(5-cyano-7-isopropyl-1,3-benzoxazol-2-yl)benzoyl]amino}-2-methoxy-2-oxoethyl)piperidine-1-carboxylate (150 mg, 0.268 mmol) and 2 ml of a TFA-water solution [95:5]. The reaction was stirred for 16 h at room temperature and then poured into 5 g of crushed ice and basified with potassium carbonate. The product was extracted with dichloromethane (4×3 ml), and the combined organics were dried (magnesium sulfate), filtered and concentrated in vacuo to provide the title compound as an off-white solid. The crude product was used without further purification in the next step. Mass spectrum (ESI) 461.57 (M+1). 1H NMR (600 MHz, CDCl3): δ8.27 (d, J=8.4 Hz, 2H), 7.76 (d, J=8.4 Hz, 2H), 7.92 (d, J=1.1 Hz, 1H), 7.57 (s, 1H), 4.6 (d, J=7.1 Hz, 1H), 3.71 (s, 3H), 3.43 (m, 1H), 3.23 (m, 2H), 2.84 (m, 2H), 2.2 (m, 1H), 1.88 (d, J=13.8 Hz, 2H), 1.51 (m, 2H), 1.40 (d, J=6.8, 6H).

reactant | tert-butyl-4-(1-{[4-(5-cyano-7-isopropyl-1,3-benzoxazol-2-yl)benzoyl]amino}-2-methoxy-2-oxoethyl)piperidine-1-carboxylate | 0.268 mmol, 150 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C(C(=O)OC)NC(C1=CC=C(C=C1)C=1OC2=C(N1)C=C(C=C2C(C)C)C#N)=O | C31H36N4O6
reactant | TFA water | 2 ml | C(=O)(C(F)(F)F)O.O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | Methyl {[4-(5-cyano-7-isopropyl-1,3-benzoxazol-2-yl)benzoyl]amino}(piperidin-4-yl)acetate | C(#N)C=1C=C(C2=C(N=C(O2)C2=CC=C(C(=O)NC(C(=O)OC)C3CCNCC3)C=C2)C1)C(C)C | C26H28N4O4
